US05883102
1-(4-Methylbenzoyl)-4-piperidone ethylene ketal
To a solution of 4-piperidone ethylene ketal (1.43 g, 10 mimol) and triethylamine (10 mmol, 1.4 ml) was added dropwise a solution of 4-methylbenzoyl chloride (1.55 g, 10 mmol) in ethyl acetate (20 ml) and the mixture stirred for 2 h. The mixture was washed twice with water followed by brine, dried over sodium sulphate and evaporated to give an off-white solid, m.p. 59°-61° C.

reactant | 4-piperidone ethylene ketal | 1.43 g | C1COC2(CCNCC2)O1 | C7H13NO2
reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methylbenzoyl chloride | 10 mmol, 1.55 g | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-Methylbenzoyl)-4-piperidone ethylene ketal | C1COC2(CCN(CC2)C(C2=CC=C(C=C2)C)=O)O1 | C15H19NO3
